### PR TITLE
feat: add `BitVec.(getElem, getLsbD, getMsbD)_(smod, sdiv, srem)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `BitVec.(getElem, getLsbD, getMsbD)_(smod, sdiv, srem)` theorems to complete the API for `sdiv`, `srem`, `smod`. Even though the rhs is not particularly succint (it's hard to find a meaning for what it means to have "the n-th bit of the result of a signed division/modulo operation"), these lemmas prevent the need to `unfold` of operations.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -334,7 +334,7 @@ theorem add_eq_or_of_and_eq_zero {w : Nat} (x y : BitVec w)
     (h : x &&& y = 0#w) : x + y = x ||| y := by
   rw [add_eq_adc, adc, iunfoldr_replace (fun _ => false) (x ||| y)]
   · rfl
-  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
+  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -620,7 +620,7 @@ theorem setWidth_setWidth_succ_eq_setWidth_setWidth_add_twoPow (x : BitVec w) (i
         simp [hik', hik'']
         omega
   · ext k
-    simp only [and_twoPow, 
+    simp only [and_twoPow,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1896,6 +1950,45 @@ theorem toInt_smod {x y : BitVec w} :
         simp [BitVec.toInt_eq_neg_toNat_neg_of_msb_true, hxmsb, hymsb,
           Int.fmod_eq_emod_of_nonneg _]
 
+theorem getElem_smod {x y : BitVec w} (h : i < w):
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem getElem_smod {x y : BitVec w} (h : i < w) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1680,6 +1680,33 @@ private theorem neg_udiv_eq_intMin_iff_eq_intMin_eq_one_of_msb_eq_true
     subst hx hy
     simp
 
+theorem getElem_sdiv {x y : BitVec w} (h : i < w):
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem getElem_sdiv {x y : BitVec w} (h : i < w) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1758,6 +1785,33 @@ theorem msb_umod_of_le_of_ne_zero_of_le {x y : BitVec w}
   rw [← intMin_le_iff_msb_eq_true (length_pos_of_ne hy)] at h
   rwa [BitVec.le_antisymm hx h]
 
+theorem getElem_srem {x y : BitVec w} (h : i < w):
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem getElem_srem {x y : BitVec w} (h : i < w) :
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 489d7b6d726980e08196b39b46faf6e40a3a2a6d --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-23 13:53:55)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1896,6 +1962,44 @@ theorem toInt_smod {x y : BitVec w} :
...
+      | false, false => (x % y)[i]
+      | false, true => (if x % -y = 0#w then (x % -y) else (x % -y + y))[i]
+      | true, false => (if -x % y = 0#w then (-x % y) else (y - -x % y))[i]
+      | true, true => (-(-x % -y))[i] := by
+  simp only [smod, umod_eq, neg_eq, zero_eq, add_eq, sub_eq]
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  <;> simp [hx, hy]
+
+-- - x / y = x / (- y)
+
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

**Comment by luisacicolini** [comment]
changelog-library
